PFC_BUCK_BOOST
*SPICE Netlist generated by Advanced Sim server on 20.05.2024 12:04:31
.options MixedSimGenerated

*Schematic Netlist:
CC1 NetC1_1 NetC1_2 1000u
CC2 NetC1_1 NetC2_2 1000u
DD1 VCC_A NetC1_2 diode
DD2 VCC_B NetC1_2 diode
DD3 VCC_C NetC1_2 diode
DD4 NetC1_1 VCC_A diode
DD5 NetC1_1 VCC_B diode
DD6 NetC1_1 VCC_C diode
LL1 NetC1_2 NetC2_2 10u RPAR=3 RSER=3
RR1 NetC1_1 NetC2_2 1K TC1=0 TC2=0
VV1 VCC_A 0 DC 230 SIN(0 315 50 0 0 0) AC 315 0
VV2 VCC_B 0 DC 230 SIN(0 315 50 0 0 120) AC 315 0
VV3 VCC_C 0 DC 230 SIN(0 315 50 0 0 240) AC 315 0

.SAVE allV
.SAVE allI
.SAVE allP

.PROBE {i(L1)} =PLOT(1) =AXIS(2) =UNITS(A)
.PROBE {V(VCC_C)} =PLOT(1) =AXIS(1) =UNITS(V) =RGB(0, 255, 0)
.PROBE {V(VCC_B)} =PLOT(1) =AXIS(1) =UNITS(V) =RGB(255, 255, 0)
.PROBE {V(VCC_A)} =PLOT(1) =AXIS(1) =UNITS(V) =RGB(255, 0, 0)
.PROBE {V(NetC1_2,NetC2_2)} =PLOT(1) =AXIS(1)
.PROBE {V(NetC1_2,NetC1_1)} =PLOT(1) =AXIS(1) =RGB(153, 0, 255)
.PROBE {V(NetC2_2,NetC1_1)} =PLOT(1) =AXIS(1) =RGB(0, 255, 255)

*Selected Circuit Analyses:
.AC DEC 10 1K 1G

*Models and Subcircuits:
.MODEL diode D ()

.END